US07262185B2
To 5.0M nitric acid (102 ml) was added sodium nitrite (314 mg), and 1-ethyl-5-hydroxymethyl-2-mercaptoimidazole (18.0 g) was added by portions to the mixture at 0° C. The mixture was allowed to be at room temperature and the mixture was stirred for 2 hours, and water (100 ml) was added to the mixture. The mixture was neutralized with potassium carbonate at 0° C., and the solvent was distilled off under reduced pressure. Ethanol was added to the mixture, and the insolubles were filtered off, and the solvent was distilled off under reduced pressure. To the obtained residue was added methanol-ethyl acetate, and basic silica gel was added to the mixture. This mixture was purified by basic silica gel column chromatography (methanol-ethyl acetate=1:8) to obtain solid, which was recrystallized from diisopropyl ether-ethyl acetate, to give 1-ethyl-5-hydroxymethylimidazole (10.0 g) as brown crystals.

reactant | nitric acid | 5.0M, 102 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | 314 mg | N(=O)[O-].[Na+]
reactant | 1-ethyl-5-hydroxymethyl-2-mercaptoimidazole | 18.0 g | C(C)N1C(=NC=C1CO)S | C6H10N2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
product | 1-ethyl-5-hydroxymethylimidazole | 10.0 g | C(C)N1C=NC=C1CO | C6H10N2O
